US07109148B2
First, 1.0 g of [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid (compound a-1) was dissolved in tetrahydrofuran, to which 0.7 ml of thionyl chloride was added under stirring, and the mixture was heated and stirred under reflux for 2 hours. After left for cooling and the subsequent concentration, the residue was dissolved in 3 ml of tetrahydrofuran (hereinafter referred to as solution B). Then, 0.7 ml of tetrahydrofuran was added to 0.05 g of allyl alcohol, to which a third part of solution B was added and 0.17 ml of pyridine was then added. After stirring at room temperature for 2 hours, 2% aqueous hydrochloric acid was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=5/1) to give 0.08 g of allyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate (compound a-21).

reactant | [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetic acid | 1.0 g | ClC1=C(OC2=C(OCC(=O)O)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C20H13ClF4N2O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | thionyl chloride | 0.7 ml | S(=O)(Cl)Cl | Cl2OS
product | allyl [2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]acetate | 0.08 g | ClC1=C(OC2=C(OCC(=O)OCC=C)C=CC=C2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C23H17ClF4N2O6
